US07112594B2
N-[3-cyano-4-(4-piperidinopiperidin-1-yl)phenyl]benzo[b]thiophene-2-carboxamide ⅕ hydrate
By the reaction and treatment in the same manner as in Example 6 using benzo[b]thiophene-2-carboxylic acid (1.0 g) and 5-amino-2-(4-piperidinopiperidin-1-yl)benzonitrile (1.4 g), the title compound (0.6 g) was obtained. melting point: 275° C.

reactant | benzo[b]thiophene-2-carboxylic acid | 1.0 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | 5-amino-2-(4-piperidinopiperidin-1-yl)benzonitrile | 1.4 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCCCC1 | C17H24N4
product | N-[3-cyano-4-(4-piperidinopiperidin-1-yl)phenyl]benzo[b]thiophene-2-carboxamide | 0.6 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)N1CCCCC1)NC(=O)C1=CC2=C(S1)C=CC=C2 | C26H28N4OS
